US08791123B2
(R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-(1-(methylsulfonyl)piperidin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method as described in Example 1 using (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I) and 1-(methylsulfonyl)piperidin-4-amine to yield the title compound as a white solid (44 mg, 100% yield). MS (apci) m/z=488.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | 1-(methylsulfonyl)piperidin-4-amine | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
product | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)-N-(1-(methylsulfonyl)piperidin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 44 mg, 100% yield | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC2CCN(CC2)S(=O)(=O)C | C22H26FN7O3S
